US08629143B2
2-amino-4-isopropyl-7-(trifluoromethyl)phthalazin-1(2H)-one
The crude 2-tert-butyl-5-(trifluoromethyl)isoindoline-1,3-dione was treated with isopropylmagnesium bromide and hydrazine using a method similar to that described in Example 1A, followed by treatment with O-(diphenylphosphoryl)hydroxylamine using a method similar to that described in Example 1B to give the title compound. LC/MS (APCI) m/z 272 (M+H)+.

reactant | 2-tert-butyl-5-(trifluoromethyl)isoindoline-1,3-dione | C(C)(C)(C)N1C(C2=CC=C(C=C2C1=O)C(F)(F)F)=O | C13H12F3NO2
reactant | isopropylmagnesium bromide | C(C)(C)[Mg]Br
reactant | hydrazine | NN | H4N2
reactant | O-(diphenylphosphoryl)hydroxylamine | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)ON | C12H12NO2P
product | 2-amino-4-isopropyl-7-(trifluoromethyl)phthalazin-1(2H)-one | NN1C(C2=CC(=CC=C2C(=N1)C(C)C)C(F)(F)F)=O | C12H12F3N3O
